US05595992
4-(4-Isobutylidenecyclohexylamino)-5-methoxy-6-methoxymethylpyrimidine
3.8 g (20 mmol) of 4-chloro-5-methoxy-6-methoxymethylpyrimidine (DE-A 4 116 089), 3.1 g (20 mmol) of 4-iso-butylidene-cyclohexylamine and 3.0 g (30 mmol) of triethylamine were stirred for 3 hours without solvent at 80°-90° C. After cooling, the mixture was taken up in water/toluene, and the organic phase was dried and evaporated on a rotary evaporator. Purification by chromatography (silica gel/ethyl acetate) gave 2.2 g (36% of theory) of a virtually colorless oil.

reactant | 4-chloro-5-methoxy-6-methoxymethylpyrimidine | 20 mmol, 3.8 g | ClC1=NC=NC(=C1OC)COC | C7H9ClN2O2
reactant | 4-iso-butylidene-cyclohexylamine | 20 mmol, 3.1 g | C(C(C)C)=C1CCC(CC1)N | C10H19N
reactant | triethylamine | 30 mmol, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | water toluene | O.C1(=CC=CC=C1)C
product | 4-(4-Isobutylidenecyclohexylamino)-5-methoxy-6-methoxymethylpyrimidine | C(C(C)C)=C1CCC(CC1)NC1=NC=NC(=C1OC)COC | C17H27N3O2
